US04145347
From 6.2 g. of methyl 2-oxo-4-phenylpyrrolidineacetate and 8.0 g. of 3-(diisopropylamino)propylamine [J.A.C.S. 65, 2012 (1943)], following the procedure of Example 1, there is obtained N-[3-[bis(1-methylethyl)amino]propyl]-2-oxo-4-phenyl-1-pyrrolidineacetamide in pure form as an oil, without need for distillation.

reactant | methyl 2-oxo-4-phenylpyrrolidineacetate | O=C1N(CC(C1)C1=CC=CC=C1)CC(=O)OC | C13H15NO3
reactant | 3-(diisopropylamino)propylamine | C(C)(C)N(CCCN)C(C)C | C9H22N2
product | N-[3-[bis(1-methylethyl)amino]propyl]-2-oxo-4-phenyl-1-pyrrolidineacetamide | CC(C)N(CCCNC(CN1C(CC(C1)C1=CC=CC=C1)=O)=O)C(C)C | C21H33N3O2
